US08084448B2
D. 5-[2-Hydroxy-4-(2-hydroxybenzyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
The title compound is prepared from 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one and methanesulfonic acid 2-iodomethylphenyl ester analogous to Example 306, steps C-F: (M−1)−=333. HPLC retention time=1.04 min (Method A).

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | methanesulfonic acid 2-iodomethylphenyl ester | ICC1=C(C=CC=C1)OS(=O)(=O)C | C8H9IO3S
product | 5-[2-Hydroxy-4-(2-hydroxybenzyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)CC1=C(C=CC=C1)O)N1CC(NS1(=O)=O)=O | C15H14N2O5S
